US08071586B2
ii) 1-Allyl-cyclopropanecarboxylic acid tert-butyl ester
15.9 ml (1.15 eq.) diisopropylamine were dissolved in 65 ml tetrahydrofuran and cooled to ca −10° C. 65 ml (1.08 eq.) 1.6 M butyllithium solution in hexane were added over 25 min, maintaining the temperature between −10° C. and 0° C. After 50 min at ca. −5° C., the reaction mixture was cooled to −75° C. A solution of 15 g (96.7 mmol, 1 eq., 92% w/w purity) cyclopropanecarboxylic acid tert-butyl ester in 20 ml tetrahydrofuran was added over 15 min keeping the temperature between −75° C. and −70° C. The reaction mixture was stirred 5 h at −75° C. (milky reaction mixture obtained after 2.5 h). A solution of 12.87 g (1.10 eq.) allyl bromide was added over 20 min keeping the temperature between −75° C. and −60° C. The reaction mixture was stirred at −78° C. for 1 h, warmed to room temperature and stirred overnight. The reaction mixture was cooled to 0° C. 100 ml sat. aq. ammonium chloride solution were added followed by 30 ml water providing a clear biphasic mixture. The mixture was extracted 3 times with 50 ml tert-butyl methyl ether. The organic phases were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure (40° C./20 mbar) to afford 16.44 g of crude product. The crude product was distilled (2 mbar; ca 40° C. distillation head temperature) to provide the title compound in ca 65% yield.

reactant | diisopropylamine | 15.9 ml, 1.15 eq. | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6 M, 65 ml, 1.08 eq. | C(CCC)[Li]
reactant | cyclopropanecarboxylic acid tert-butyl ester | 96.7 mmol, 15 g, 1 eq. | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
reactant | allyl bromide | 12.87 g, 1.10 eq. | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1-Allyl-cyclopropanecarboxylic acid tert-butyl ester | ca 65% yield | C(C)(C)(C)OC(=O)C1(CC1)CC=C | C11H18O2
